US06002008
N-{3-Cyano-4-[(3-cyanophenyl)amino]-6-quinolinyl}-4-piperidino-2-butynamide
Partially dissolved 1.46 g (8.75 mmol) 4-piperidino-2-butynoic acid in 100 ml THF and chilled to 0° C. under N2. Added 1.16 ml (10.5 mmol) N-methylmorpholine and 911 μl (7.00 mmol) isobutyl chloroformate and stirred for 30 minutes. Added a solution of 1.00 g (3.50 mmol) 6-amino-4-[(3-cyanophenyl)amino]-3-quinolinecarbonitrile in 8 ml pyridine. At 3.5 hours poured onto ice bath and made basic with saturated sodium bicarbonate. Extracted with ethyl acetate, dried organic layers with magnesium sulfate, filtered, and reduced solvent to a small volume. Loaded compound onto a column of silica gel and eluted with 7% methanol/ethyl acetate. Stripped solvent from desired fractions and dried in vacuo, giving 1.008 g of off-white solid: mass spectrum (electrospray m/e): 435.0.

reactant | 4-piperidino-2-butynoic acid | 8.75 mmol, 1.46 g | N1(CCCCC1)CC#CC(=O)O | C9H13NO2
reactant | N-methylmorpholine | 10.5 mmol, 1.16 ml | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 7.00 mmol, 911 μl | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 6-amino-4-[(3-cyanophenyl)amino]-3-quinolinecarbonitrile | 3.50 mmol, 1.00 g | NC=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=CC=C1)C#N | C17H11N5
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | N-{3-Cyano-4-[(3-cyanophenyl)amino]-6-quinolinyl}-4-piperidino-2-butynamide | 1.008 g | C(#N)C=1C=NC2=CC=C(C=C2C1NC1=CC(=CC=C1)C#N)NC(C#CCN1CCCCC1)=O | C26H22N6O
